US04016148
In a manner analogous to Example 7(b), starting from the benzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-L-alanyl-L-alanyl)amino]-ethylphosphonic acid there was obtained (1R)-1-(L-alanyl-L-alanylamino)-ethylphosphonic acid of melting point 283°-284° C (decomposition); [α]D20 = -66.8° (c = 0.5% in water).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-L-alanyl-L-alanyl)amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C16H24N3O7P
product | (1R)-1-(L-alanyl-L-alanylamino)-ethylphosphonic acid | N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C8H18N3O5P
